US05648370
a) 3-[2-[2-phenylethoxy]ethylthio]propanoic acid
A solution of 2-[2-phenylethoxy]ethane thiol (2.13 g) in dry DMF (10 ml) was added dropwise to a cooled (0°) stirred suspension of sodium hydride (0.60 g, 80% in oil) in DMF (50 ml). The mixture was stirred at 0° for 90 min. A solution of 3-bromopropanoic acid (3.15 g) in dry DMF (10 ml) was then added dropwise and the reaction was stirred at room temperature for 16 hours. Water (250 ml) was added and the whole was acidified to pH 2/3 with concentrated hydrochloric acid. The aqueous solution was extracted several times with ether and the combined ethereal layers were washed with water and brine, dried (MgSO4) and evaporated under reduced pressure. This yielded the crude acid which was purified by flash chromatography over silica using 6:1 dichloromethane:ether (1 drop acetic acid/100 ml of eluant) to give the subtitled compound (2.15 g).

reactant | 2-[2-phenylethoxy]ethane thiol | 2.13 g | C1(=CC=CC=C1)CCOCCS | C10H14OS
reactant | sodium hydride | 0.60 g | [H-].[Na+]
reactant | 3-bromopropanoic acid | 3.15 g | BrCCC(=O)O | C3H5BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | Water | 250 ml | O | H2O
product | 3-[2-[2-phenylethoxy]ethylthio]propanoic acid | 2.15 g | C1(=CC=CC=C1)CCOCCSCCC(=O)O | C13H18O3S
